US04777172
Boron tribromide (6.1 ml) was added dropwise to a stirred solution of 2-methoxymethyl-4-piperidinopyrimidine (3.35 g) in dichloromethane (60 ml) at 0°-5° under nitrogen. After a further 30 minutes the mixture was poured onto ice, the pH raised to 13 (NaOH) and extracted with chloroform. The combined extracts were dried (K2CO3) and the volume reduced. Ether was added to give 2-hydroxymethyl-4-piperidino-pyrimidine (2.78 g) as a crystalline solid, m.p. 92°-3°.

reactant | Boron tribromide | 6.1 ml | B(Br)(Br)Br | BBr3
reactant | 2-methoxymethyl-4-piperidinopyrimidine | 3.35 g | COCC1=NC=CC(=N1)N1CCCCC1 | C11H17N3O
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-hydroxymethyl-4-piperidino-pyrimidine | 2.78 g | OCC1=NC=CC(=N1)N1CCCCC1 | C10H15N3O
